US06534445B1
0.87 g (2.3 mmol) of 5-hydroxy-2-methyl-2-methylsulfanyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[4.1.0]hept-4-en-3-one (Compound A2-D113), dissolved in 8 ml of methanol, is warmed for 3 hours at a temperature of 50° C. in the presence of 0.56 g of sodium periodate. The mixture is then partitioned between ethyl acetate an d sodium chloride solution, concentrated, and the crude product is purified by chromatography (mobile phase: ethyl acetate/m ethanol 19:1). Pure 5-hydroxy-2-methanesulfinyl-2-methyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[4.1.0]hept-4-en-3-one is obtained as tautomer and isomer mixture of melting point 159.5-160° C.

reactant | 5-hydroxy-2-methyl-2-methylsulfanyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[4.1.0]hept-4-en-3-one | 2.3 mmol, 0.87 g | OC1=C(C(C(C2CC12)(SC)C)=O)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C17H16F3NO3S
reactant | sodium periodate | 0.56 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 5-hydroxy-2-methanesulfinyl-2-methyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[4.1.0]hept-4-en-3-one | OC1=C(C(C(C2CC12)(C)S(=O)C)=O)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C17H16F3NO4S
